* LVS negative control for gf180_tmds_pad_ring_assembly (issue #86):
* checked against the SAME reference the unshorted assembly passes
* (gf180_tmds_pad_ring_assembly.ref.spice's own topology, OUTP left
* independent) while the *layout* now also bridges OUTP to VSS with an
* extra Metal1/Metal2 wire (gen_pad_ring_assembly.py's `--shorted` option)
* -- a pure connectivity defect the layout-vs-reference net count/topology
* comparison must catch (`status: mismatch`), proving this LVS check
* actually distinguishes connected from disconnected rather than passing
* vacuously.
.SUBCKT gf180_tmds_pad_ring_assembly_shorted OUTP OUTN INP INN IBIAS VSS
M1 OUTP INP TAIL VSS nfet L=0.28U W=128U
M2 OUTN INN TAIL VSS nfet L=0.28U W=128U
MT TAIL IBIAS VSS VSS nfet L=0.5U W=400U
MB IBIAS IBIAS VSS VSS nfet L=0.5U W=20U
D1 VSS OUTP diode_nd2ps_06v0
D2 VSS OUTN diode_nd2ps_06v0
.ENDS gf180_tmds_pad_ring_assembly_shorted
